US08202895B2
Methyl 3-[(tert-butoxycarbonyl)amino]-3-(2-methoxyphenyl)propanoate
A quantity of 1.0 g (4.10 mmol) of methyl 3-amino-3-(2-methoxyphenyl)propanoate was suspended in 25 ml of dioxane and 27.5 ml of 5% strength aqueous sodium hydrogen carbonate solution. Then 0.89 g (4.10 mmol) of di-tert-butyl dicarbonate were added. The mixture was stirred at RT overnight. The white suspension was admixed with 50 ml of water and extracted with three times 25 ml of ethyl acetate. The combined organic phases were dried over magnesium sulphate, filtered and freed from the solvent on a rotary evaporator. This gave 1.34 g (100% of theory) of the title compound.

reactant | methyl 3-amino-3-(2-methoxyphenyl)propanoate | 4.10 mmol, 1.0 g | NC(CC(=O)OC)C1=C(C=CC=C1)OC | C11H15NO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 4.10 mmol, 0.89 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 50 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | Methyl 3-[(tert-butoxycarbonyl)amino]-3-(2-methoxyphenyl)propanoate | C(C)(C)(C)OC(=O)NC(CC(=O)OC)C1=C(C=CC=C1)OC | C16H23NO5
